US04619783
Potassium 2-(2-oxo-pyrrolidino)ethyl Xanthate
To a stirred solution of 5.16 g. of N-(2-hydroxyethyl)-2-oxo-pyrrolidine in 200 ml. of anhydrous tetrahydrofuran at room temperature was added 4.48 g. of potassium t-butoxide. A gummy precipitate formed. The mixture was stirred for 1 hour, and then 3.6 ml. of carbon disulfide was added. The mixture was stirred for 2 hours, and then 100 ml. of anhydrous ether was added, causing the formation of a gummy precipitate. The solvent was decanted from the gummy precipitate, and the gummy precipitate was dried under high vacuum to give a foam (5.0 g.) of the title compound.

reactant | N-(2-hydroxyethyl)-2-oxo-pyrrolidine | OCCN1C(CCC1)=O | C6H11NO2
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | potassium t-butoxide | CC(C)([O-])C.[K+]
reactant | carbon disulfide | C(=S)=S | CS2
solvent | ether | CCOCC | C4H10O
product | Potassium 2-(2-oxo-pyrrolidino)ethyl Xanthate | O(C(=S)[S-])CCN1C(CCC1)=O.[K+] | InChI=1S/C7H11NO2S2.K/c9-6-2-1-3-8(6)4-5-10-7(11)12;/h1-5H2,(H,11,12);/q;+1/p-1
